US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(4-methylphenyl)-2-propen-1-one
The title compound was prepared by heating a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol), p-tolualdehyde (75 ul, 0.633 mmol), methanol (5 ml) and NaOH (200 ul, 10M) for 24 h. The mixture was cooled to room temperature, diluted with ethyl acetate (100 ml), wash with water and saturated aqueous NaCl, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by column chromatography using hexane:ethyl acetate (4:1) to give a yellow solid (32 mg, 12.2%). 1H NMR (CDCl3): 7.67 (d, J=15.6 Hz, 1H), 7.50 (d, J=8.4 Hz, 2H), 7.40 (d, J=15.6 Hz, 1H), 7.28 (d, J=3.3 Hz, 1H), 7.22 (d, J=8.1 Hz, 2H), 7.12 (dd, J=3.3, 9.3 Hz, 1H), 6.96 (d, J=8.7 Hz, 1H), 4.44-4.33 (m, 4H), 2.39 (s, 3H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | p-tolualdehyde | 0.633 mmol, 75 ul | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | methanol | 5 ml | CO | CH4O
reactant | NaOH | 10M, 200 ul | [OH-].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(4-methylphenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC=C(C=C1)C)=O)(F)F | C20H16F6O3
